US06579872B1
N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-methanesulphonylaminobenzamide
Methanesulphonyl chloride (0.16 ml) was added to a stirred mixture of N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-aminobenzamide (0.765 g), pyridine (0.29 ml) and methylene chloride (30 ml) and the resultant mixture was stirred at ambient temperature for 18 hours. A second portion (0.158 ml) of methanesulphonyl chloride was added and the resultant mixture was stirred at ambient temperature for a further 18 hours. The reaction mixture was washed with water, dried (MgSO4) and evaporated. The residue was triturated under diethyl ether. The solid so obtained was dried under vacuum at 60° C. There was thus obtained the title compound (0.97 g); NMR Spectrum: (DMSOd6) 2.2 (s, 3H), 3.03 (s, 3H), 3.2 (t, 4H), 3.74 (t, 4H), 7.17 (m, 1H), 7.23 (d, 1H), 7.4 (m, 5H), 7.59 (m, 1H), 7.7 (d, 1H), 7.8 (m, 2H), 9.93 (d, 2H), 10.14 (s, 1H); Mass Spectrum: M+H+ 509.

reactant | Methanesulphonyl chloride | 0.16 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-aminobenzamide | 0.765 g | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O)NC(C1=CC(=CC=C1)N)=O | C25H26N4O3
reactant | pyridine | 0.29 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulphonyl chloride | 0.158 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-methanesulphonylaminobenzamide | 0.97 g | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O)NC(C1=CC(=CC=C1)NS(=O)(=O)C)=O | C26H28N4O5S
